US05252617
Suitable blocking agents or example, an oxime (preferably butanone oxime), a lactam (preferably ε caprolactam), an acetoacetate (preferably ethyl acetate), a malonate (preferably diethyl malonate), or a substituted phenol. Within the substitued phenols, p-hydroxybenzoic acid esters (e.g. p-hydroxybenzoic acid ethyl ester) are particularly preferred. They have low cleavage temperatures (less than 150° C.), and the ester eliminated has a low volatility and no unpleasant odor. In one preferred embodiment of the invention, component III may be obtained by reaction of the trimer (i.e. isocyanurate) of 1,6-hexamethylene diisocyanate with a hydroxyfunctional polyester, especially a polyadipate having a melting range of no more than 100° C. In another embodiment of the invention, 1,3-bis-(isocyanato-organo)-2,4-dioxo-1,3-diazetidines or 3,5-bis-(isocyanato-organo)-2,4,6-trioxotetrahydro-1,3,5-oxadiazines, such as, e.g., the adduct of 2 moles 1,6-hexamethylene diisocyanate and 1 mole carbon dioxide, may also be used as blocked polyisocyanates.

reactant | butanone oxime | CC(CC)=NO | C4H9NO
reactant | caprolactam | C1(CCCCCN1)=O | C6H11NO
reactant | acetoacetate | C(CC(=O)C)(=O)[O-]
reactant | malonate | C(CC(=O)[O-])(=O)[O-]
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,6-hexamethylene diisocyanate | C(CCCN=C=O)CCN=C=O | C8H12N2O2
